US04870188
A mixture of 4-ethynylbenzoic acid (1.0 equiv.) and tri-n-butyltinhydride (1.0 equiv.) (Aldrich) is warmed to 60° C. for six hours. Kugelrohr distillation of the crude product gives tri-n-butylstannyl 4-[2'-(tri-n-butylstannyl)ethenyl]benzoate.

reactant | 4-ethynylbenzoic acid | 1.0 equiv. | C(#C)C1=CC=C(C(=O)O)C=C1 | C9H6O2
reactant | tri-n-butyltinhydride | 1.0 equiv. | C(CCC)[SnH](CCCC)CCCC
product | tri-n-butylstannyl 4-[2'-(tri-n-butylstannyl)ethenyl]benzoate | C(CCC)[Sn](C=CC1=CC=C(C(=O)O[Sn](CCCC)(CCCC)CCCC)C=C1)(CCCC)CCCC | InChI=1S/C9H7O2.6C4H9.2Sn/c1-2-7-3-5-8(6-4-7)9(10)11;6*1-3-4-2;;/h1-6H,(H,10,11);6*1,3-4H2,2H3;;/q;;;;;;;;+1/p-1
